US09169254B2
A solution of 4-bromo-2-(2,2,3,3-tetrafluoro-propoxy)-1-trifluoromethyl-benzene (482 mg, 1.36 mmol), pinacol diborane (379 mg, 1.49 mmol), palladium dichloride-diphenylphosphinoferrocene (111 mg, 0.136 mmol) and potassium acetate (400 mg, 4.08 mmol) in cyclopentyl methyl ether (2.41 mL) was heated with stirring at 115° C. for one hour in a nitrogen atmosphere. After cooling to room temperature, water (1 mL) was added to the reaction mixture, and the upper cyclopentyl methyl ether layer was extracted. Methanol (1 mL) was added to the organic layer. Periodic acid (1.24 g, 5.44 mmol) was added at 0° C., and the mixture was warmed to room temperature and stirred for one hour. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1→1:1) and further treated with hexane to give 3-(2,2,3,3-tetrafluoro-propoxy)-4-trifluoromethylphenylboronic acid as a pale brown solid (260 mg, 60%).

reactant | 4-bromo-2-(2,2,3,3-tetrafluoro-propoxy)-1-trifluoromethyl-benzene | 1.36 mmol, 482 mg | BrC1=CC(=C(C=C1)C(F)(F)F)OCC(C(F)F)(F)F | C10H6BrF7O
reactant | pinacol diborane | 1.49 mmol, 379 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.08 mmol, 400 mg | C(C)(=O)[O-].[K+]
reactant | Periodic acid | 5.44 mmol, 1.24 g | I(=O)(=O)(=O)O | HIO4
solvent | cyclopentyl methyl ether | 2.41 mL | COC1CCCC1 | C6H12O
catalyst | palladium dichloride diphenylphosphinoferrocene | 0.136 mmol, 111 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | Water | O | H2O
solvent | water | 1 mL | O | H2O
product | 3-(2,2,3,3-tetrafluoro-propoxy)-4-trifluoromethylphenylboronic acid | 260 mg, 60% | FC(COC=1C=C(C=CC1C(F)(F)F)B(O)O)(C(F)F)F | C10H8BF7O3
